US08404856B2
Step 1: 3-fluoro-4-methylpyridine-2-carbonitrile (11-1)
To a mixture of 2-bromo-3-fluoro-4-methylpyridine (4.89 g, 25.7 mmol) and zinc cyanide (3.02 g, 25.7 mmol) in DMF (45 mL) was added palladium tetra(triphenylphosphine) (2.97 g, 2.57 mmol). The mixture was degassed and then heated to 90° C. for 18 hours. After this time, the mixture was diluted with water (500 mL) and EtOAc (500 mL), filtered and the resulting layers were separated. The aqueous layer was further extracted with EtOAc (2×500 mL). The combined extracts were washed with water (300 mL), dried over MgSO4, filtered and the solvent removed in vacuo. The resulting residue was chromatographed using RediSep column (330 g) and eluting with a gradient of 0-100% EtOAc/CH2Cl2. The pure fractions were combined and the solvent removed in vacuo to give title compound.

reactant | 2-bromo-3-fluoro-4-methylpyridine | 25.7 mmol, 4.89 g | BrC1=NC=CC(=C1F)C | C6H5BrFN
reactant | DMF | 45 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 25.7 mmol, 3.02 g | [C-]#N.[Zn+2].[C-]#N
catalyst | palladium tetra(triphenylphosphine) | 2.57 mmol, 2.97 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 3-fluoro-4-methylpyridine-2-carbonitrile | FC=1C(=NC=CC1C)C#N | C7H5FN2
